US08486939B2
Phenol (200 mg, 21 mmol) and NaOH (85 mg, 21 mmol) were combined in water to give a clear solution, which was then evaporated to dryness. 1-[4-Chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole (184 mg, 0.5 mmol) and tris[2-(2-methoxyethoxy)ethyl]amine (TDA-1; 16 mg, 0.05 mmol) were added and the mixture was heated under reflux in dioxane (10 mL) for 2 hr. After cooling, the mixture was diluted with water to give a white solid, which was collected and recrystallised from MeOH to give 93 mg (44% yield) of 2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-phenoxy-1,3,5-triazin-2-yl]-1H-benzimidazole: mp 228-231° C.; 1H NMR (CDCl3) δ 8.06 (d, J=8.2 Hz, 1H), 7.84 (d, J=7.8 Hz, 1H), 7.49 (br t, J=7.9 Hz, 2H), 7.36 (br t, J=7.5 Hz, 2H), 7.30 (dt, J=7.6, 1.1 Hz, 1H), 7.22 (m, 2H), 7.11 (t, JHF=53.6 Hz, 1H), 3.99-3.93 (m, 4H), 3.86-3.79 (m, 4H); Anal. Calc. for C21H18F2N6O2: C, 59.4; H, 4.3; N, 19.8. Found: C, 59.65; H, 4.2; N, 19.9%.

reactant | Phenol | 21 mmol, 200 mg | C1(=CC=CC=C1)O | C6H6O
reactant | NaOH | 21 mmol, 85 mg | [OH-].[Na+]
reactant | 1-[4-Chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.5 mmol, 184 mg | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 0.05 mmol, 16 mg | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | water | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-phenoxy-1,3,5-triazin-2-yl]-1H-benzimidazole | 93 mg, 44% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)OC1=CC=CC=C1)C=CC=C2)F | C21H18F2N6O2
